US07666879B2
1-(5-tert-Butyl-2-p-tolyl-2H-pyrazol-3-yl)-3-[4-(7-thiophen-3-yl-imidazo[1,2-a]pyridin-3-yl)-benzyl]-urea
Dissolve 4-(7-thien-3-yl-imidazo[1,2-a]pyridin-3-yl)-benzylamine (0.058 g, 0.19 mmol), (5-tert-butyl-2-p-tolyl-2H-pyrazol-3-yl)-carbamic acid 2,2,2-trichloro-ethyl ester (0.093 g, 0.23 mmol) and diisopropylethylamine (0.071 g, 0.55 mmol) in DMSO (3.6 mL). Heat the mixture at 62° C. for 8 hours. After evaporation of solvent, dilute the reaction with water and ethyl acetate. Extract the water phase with ethyl acetate and wash the combined organic layers with saturated aqueous saturated sodium chloride and evaporate to dryness. Purify the residue by silica gel column chromatography (dichlromethane/ethyl acetate gradient) to give 0.023 g (21% yield) of desired compound: MS(ES), m/z 561 (M+1).

reactant | 4-(7-thien-3-yl-imidazo[1,2-a]pyridin-3-yl)-benzylamine | 0.19 mmol, 0.058 g | S1C=C(C=C1)C1=CC=2N(C=C1)C(=CN2)C2=CC=C(CN)C=C2 | C18H15N3S
reactant | (5-tert-butyl-2-p-tolyl-2H-pyrazol-3-yl)-carbamic acid 2,2,2-trichloro-ethyl ester | 0.23 mmol, 0.093 g | ClC(COC(NC=1N(N=C(C1)C(C)(C)C)C1=CC=C(C=C1)C)=O)(Cl)Cl | C17H20Cl3N3O2
reactant | diisopropylethylamine | 0.55 mmol, 0.071 g | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMSO | 3.6 mL | CS(=O)C | C2H6OS
product | 1-(5-tert-Butyl-2-p-tolyl-2H-pyrazol-3-yl)-3-[4-(7-thiophen-3-yl-imidazo[1,2-a]pyridin-3-yl)-benzyl]-urea | 0.023 g, 21% yield | C(C)(C)(C)C=1C=C(N(N1)C1=CC=C(C=C1)C)NC(=O)NCC1=CC=C(C=C1)C1=CN=C2N1C=CC(=C2)C2=CSC=C2 | C33H32N6OS
